US07582629B2
2-[4-(Difluoromethoxy)benzyl]-4-hydroxy-5-phenylisothiazol-3(2H)-one 1,1-dioxide
N-[4-(Difluoromethoxy)benzyl]-1-phenylmethanesulfonamide (0.6 g, 1.83 mmol) and ethyl oxalate (0.32 g, 2.20 mmol) were mixed in THF (4 mL, dry). Under an atmosphere of nitrogen, potassium tert-butoxide (0.27 g, 2.38 mmol) was added and the reaction mixture was heated in a microwave reactor at 150° C. for 10 mins and then at 150° C. for 5 mins. The mixture was then cooled in an ice-bath and HCl (10%, 1 mL) was added, pH˜1. The mixture was evaporated to remove THF and the residue was extracted with DCM (20 mL). The extract was dried (MgSO4) and evaporated to give the crude product (0.634 g). It was used in the next step without further purification.

reactant | N-[4-(Difluoromethoxy)benzyl]-1-phenylmethanesulfonamide | 1.83 mmol, 0.6 g | FC(OC1=CC=C(CNS(=O)(=O)CC2=CC=CC=C2)C=C1)F | C15H15F2NO3S
reactant | ethyl oxalate | 2.20 mmol, 0.32 g | C(C(=O)[O-])(=O)OCC
reactant | potassium tert-butoxide | 2.38 mmol, 0.27 g | CC(C)([O-])C.[K+]
reactant | HCl | 1 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-[4-(Difluoromethoxy)benzyl]-4-hydroxy-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.634 g | FC(OC1=CC=C(CN2S(C(=C(C2=O)O)C2=CC=CC=C2)(=O)=O)C=C1)F | C17H13F2NO5S
